US04402960
A solution of 1.08 g of 3-chloroperbenzoic acid (80%) in 100 ml of dichloromethane is added dropwise to a solution of 2.46 g of 4,5-bis(4-methoxyphenyl)-1-benzyl-2-(4-methylphenylthio)imidazole in 50 ml of dichloromethane. The mixture is stirred for 3 hours at room temperature, the solution is washed with sodium bicarbonate solution, dried over sodium sulfate, and concentrated to dryness under vacuum. The residue is chromatographed on 150 g of silica gel with ethyl acetate/hexane 2:3, thus producing 2.17 g of 4,5-bis-(4-methoxyphenyl)-1-benzyl-2-(4-methylphenylsulfinyl)imidazole as an amorphous foam.

reactant | 3-chloroperbenzoic acid | 1.08 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 4,5-bis(4-methoxyphenyl)-1-benzyl-2-(4-methylphenylthio)imidazole | 2.46 g | COC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)OC)CC1=CC=CC=C1)SC1=CC=C(C=C1)C | C31H28N2O2S
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4,5-bis-(4-methoxyphenyl)-1-benzyl-2-(4-methylphenylsulfinyl)imidazole | 2.17 g | COC1=CC=C(C=C1)C=1N=C(N(C1C1=CC=C(C=C1)OC)CC1=CC=CC=C1)S(=O)C1=CC=C(C=C1)C | C31H28N2O3S
